US05302304
To 282 g (1.0 mole) of Industrene 105 oleic acid (available from Humko Chemical Division of Witco Corp.) was added 46.0 g (0.92 mole) of hydrazine monohydrate (0.92 moles hydrazine per mole of oleic acid). The mixture was warmed slowly to 160° C. while stripping with nitrogen and stirred for one hour to give 299 g of hydrazine oleamide (or oleic hydrazide). The silver wear and copper corrosion results are reported in Table II below.

reactant | hydrazine monohydrate | 0.92 mole, 46.0 g | O.NN
reactant | oleic hydrazide | C(CCCCCCC\C=C/CCCCCCCC)(=O)NN | C18H36N2O
product | hydrazine oleamide | 299 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)N.NN | InChI=1S/C18H35NO.H4N2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20;1-2/h9-10H,2-8,11-17H2,1H3,(H2,19,20);1-2H2/b10-9-;
